US04447361
N-[3-[6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepin-11-yl]propyl]methanimidic acid ethyl ester
A solution of 8.8 g (0.021 mole) of 6-phenyl-11H-pyrido [2,3-b][1,4]bezodiazepine-11-propanamine in 150 ml of triethylorthoformate was heated at refux for 41/2 hr and allowed to stand overnight. The mixture was concentrated in vacuo, the residue was washed with pet-ether (30°-60° C.). Chemical ionization mass spec indicated the product was a mixture containing the title compound.

reactant | 6-phenyl-11H-pyrido [2,3-b][1,4]bezodiazepine-11-propanamine | 0.021 mole, 8.8 g | C1(=CC=CC=C1)C1=NC2=C(N(C3=C1C=CC=C3)CCCN)N=CC=C2 | C21H20N4
reactant | triethylorthoformate | 150 ml | C(C)OC(OCC)OCC | C7H16O3
product | N-[3-[6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepin-11-yl]propyl]methanimidic acid ethyl ester | C(C)OC=NCCCN1C2=C(N=C(C3=C1C=CC=C3)C3=CC=CC=C3)C=CC=N2 | C24H24N4O
